US05698579
A solution of 3-phthalimido-3-(3, 4-diisopropoxyphenyl)propionic acid (1.0 g, 2.4 mmol), 1,1 carbonyldiimidazole (0.43 g, 2.6 mmol), and 4-dimethylaminopyridine (trace) in tetrahydrofuran (18 mL) was stirred for 1.5 hours at room temperature. To the solution was added ammonium hydroxide (0.24 mL, 3.7 mmol, 28-30%) and stirring was continued for 2 hours. The tetrahydrofuran was removed in vacuo leaving an oil. To the oil was added 2 mL of water and the mixture was stirred at room temperature overnight. The resulting slurry was filtered, the solid was washed with water, air dried, and dried in vacuo (60° C., <1 mm) to afford 0.87 g (88%) of 3-phthalimido-3-(3, 4-diisopropoxyphenyl)propionamide as a white solid: mp 153°-154.5° C.; 1H NMR (DMSO-d6) δ7.92-7.78 (m, 4H), 7.55 (s, 1H), 7.03(s, 1H), 6.93-6.77 (m, 3H), 5.71-5.56 (m, 1H), 4.51-4.33 (m, 2H), 3.25-3.06 (m, 2H), 1.31-1.08 (m, 12H); 13C NMR (DMSO-d6) δ171.7, 168.3, 148.9, 133.9, 132.1, 131.9, 123.3, 120.9, 117.7, 72.2, 72.1, 51.5, 37.9, 22.2; Anal. Calcd. for C23H26N2O5. Theoretical: C, 67.30; H, 6.38; N, 6.82. Found: C, 67.01; H, 6.35; N, 6.69.

reactant | 3-phthalimido-3-(3, 4-diisopropoxyphenyl)propionic acid | 2.4 mmol, 1.0 g | C1(C=2C(C(N1C(CC(=O)O)C1=CC(=C(C=C1)OC(C)C)OC(C)C)=O)=CC=CC2)=O | C23H25NO6
reactant | ammonium hydroxide | 3.7 mmol, 0.24 mL | [OH-].[NH4+]
reactant | water | 2 mL | O | H2O
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 18 mL | O1CCCC1 | C4H8O
product | 3-phthalimido-3-(3, 4-diisopropoxyphenyl)propionamide | 0.87 g, 88% | C1(C=2C(C(N1C(CC(=O)N)C1=CC(=C(C=C1)OC(C)C)OC(C)C)=O)=CC=CC2)=O | C23H26N2O5
